US03994908
Methyl 2-(2-p-chlorophenoxy-4-pyridyl)propionate (3.13 g) is treated with methyl iodide in the presence of 50 % sodium hydride in anhydrous tetrahydrofuran in a nitrogen atmosphere at room temperature for 1 hour and then at 40° C for 30 minutes, whereby methyl 2-(2-p-chlorophenoxy-4-pyridyl)isobutyrate (2.59 g) is obtained as crystals melting at 92° to 92.5° C. Then, this substance is treated with a mixture of 20 % aqueous potassium hydroxide and 95 % ethanol with refluxing for 10 minutes, whereby 2-(2-p-chlorophenoxy-4-pyridyl)isobutyric acid (2.35 g) is obtained as crystals melting at 135° to 136° C.

reactant | Methyl 2-(2-p-chlorophenoxy-4-pyridyl)propionate | 3.13 g | ClC1=CC=C(OC2=NC=CC(=C2)C(C(=O)OC)C)C=C1 | C15H14ClNO3
reactant | methyl iodide | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 2-(2-p-chlorophenoxy-4-pyridyl)isobutyrate | 2.59 g | ClC1=CC=C(OC2=NC=CC(=C2)C(C(=O)OC)(C)C)C=C1 | C16H16ClNO3
